US08729112B2
Benzyl 4,4,4-trifluoro-1-hydroxy-2-methylbutan-2-ylcarbamate
A solution of 2-(benzyloxycarbonylamino)-4,4,4-trifluoro-2-methylbutanoic acid (1.6 g, 5.2 mmol) in THF (17 ml) was cooled to 0° C. and triethylamine (910 ul, 6.5 mmol) was added, then ethyl chloroformate (624 ul, 6.5 mmol) dropwise over 40 min. A solution of sodium borohydride (491 mg, 13 mmol) in H2O (2.6 ml) was added dropwise over 2 h. The reaction was quenched by the addition of 1 M HCl, stirred for 5 min, and then extracted with EtOAc. The organic layer was washed with sat. NaHCO3, sat. NaCl, dried on Na2SO4, and concentrated in vacuo. The residue was purified by flash chromatography (15% to 100% EtOAc in hexanes) to afford the title compound as a clear oil (838 mg). 1H NMR (CDCl3, 400 MHz) δ 1.36 (s, 3H), 2.33-2.45 (m, 1H), 2.93-3.03 (m, 1H), 3.62 (br s, 1H), 3.65-3.76 (m, 2H), 5.07-5.10 (m, 3H), 7.28-7.39 (m, 5H). LRMS (ESI/APCI): 292 [M+H]+.

reactant | 2-(benzyloxycarbonylamino)-4,4,4-trifluoro-2-methylbutanoic acid | 5.2 mmol, 1.6 g | C(C1=CC=CC=C1)OC(=O)NC(C(=O)O)(CC(F)(F)F)C | C13H14F3NO4
reactant | triethylamine | 6.5 mmol, 910 ul | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 6.5 mmol, 624 ul | ClC(=O)OCC | C3H5ClO2
reactant | sodium borohydride | 13 mmol, 491 mg | [BH4-].[Na+]
solvent | THF | 17 ml | C1CCOC1 | C4H8O
solvent | H2O | 2.6 ml | O | H2O
product | Benzyl 4,4,4-trifluoro-1-hydroxy-2-methylbutan-2-ylcarbamate | 838 mg | FC(CC(CO)(C)NC(OCC1=CC=CC=C1)=O)(F)F | C13H16F3NO3
